US09388190B2
To a solution of 1-isopropyl-7-(methylsulfonyl)-1,2,3,4-tetrahydrobenzo[4,5]imidazo[1,2-a]pyrazine (15 mg, 0.05 mmol) in DMSO (3 mL) was added 2-chloro-4-(trifluoromethyl)pyrimidine (19 mg, 0.10 mmol) and DIEA (20 mg, 0.15 mmol) under N2. The mixture was stirred at 100° C. for 2 h. Water (10 mL) was added and the mixture was extracted with EtOAc (3×10 mL). The combined organic layers were washed with brine (10 mL), dried over anhydrous Na2SO4, filtered, concentrated and then purified by preparative TLC to afford 1-isopropyl-7-(methylsulfonyl)-2-(4-(trifluoromethyl)pyrimidin-2-yl)-1,2,3,4-tetrahydrobenzo[4,5]imidazo[1,2-a]pyrazine (5.10 mg, 23% yield) as a white solid. LC-MS m/z 440.2 (MH+). 1H NMR (CDCl3 400 MHz): δ 8.58 (d, J=4.8 Hz, 1H), 8.01 (d, J=0.8 Hz, 1H), 7.90-7.81 (m, 2H), 6.89 (d, J=4.8 Hz, 1H), 6.12 (d, J=8.0 Hz, 1H), 5.39 (dd, J=4.0 and 14.0 Hz, 1H), 4.34-4.30 (m, 1H), 4.23-4.16 (m, 1H), 3.83-3.75 (m, 1H), 3.09 (s, 3H), 2.55-2.49 (m, 1H), 1.33 (d, J=6.8 Hz, 3H), 1.09 (d, J=6.8 Hz, 3H).

reactant | 1-isopropyl-7-(methylsulfonyl)-1,2,3,4-tetrahydrobenzo[4,5]imidazo[1,2-a]pyrazine | 0.05 mmol, 15 mg | C(C)(C)C1C=2N(CCN1)C1=C(N2)C=CC(=C1)S(=O)(=O)C | C14H19N3O2S
reactant | 2-chloro-4-(trifluoromethyl)pyrimidine | 0.10 mmol, 19 mg | ClC1=NC=CC(=N1)C(F)(F)F | C5H2ClF3N2
reactant | DIEA | 0.15 mmol, 20 mg | CCN(C(C)C)C(C)C | C8H19N
reactant | Water | 10 mL | O | H2O
solvent | DMSO | 3 mL | CS(=O)C | C2H6OS
product | 1-isopropyl-7-(methylsulfonyl)-2-(4-(trifluoromethyl)pyrimidin-2-yl)-1,2,3,4-tetrahydrobenzo[4,5]imidazo[1,2-a]pyrazine | 5.10 mg, 23% yield | C(C)(C)C1C=2N(CCN1C1=NC=CC(=N1)C(F)(F)F)C1=C(N2)C=CC(=C1)S(=O)(=O)C | C19H20F3N5O2S
